US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-chloroaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-chloronitrobenzene (2.40 g) in acetic acid (50 ml) was added zinc powder (5.60 g) in four portions at room temperature and the mixture was stirred for 2 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=1/1 as an eluant to give the desired compound (1.99 g, yield 87%) as an orange oil.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-chloronitrobenzene | 2.40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C16H21ClN2O5
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 5.60 g | [Zn] | Zn
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-chloroaniline | 1.99 g, yield 87% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(N)C=C1)Cl | C16H23ClN2O3
